US05102667
A solution of (2-nitrophenyl)acetic acid (18.1 g) in normal sodium hydroxide solution (120 cc) is hydrogenated in an autoclave under a pressure of 5 bar for 2.5 hours at 20° C. in the presence of 3% palladium-on-carbon black (1.5 g). The solution of sodium (2-aminophenyl)acetate thus obtained is cooled to +5° C. and then treated with a solution of di-tert-butyl dicarbonate (26.16 g) in tetrahydrofuran (100 cc) and then with normal sodium hydroxide solution (80 cc). The reaction mixture is stirred at 20° C. for 80 hours, partially concentrated under reduced pressure (2.7 kPa), diluted with water (200 cc) and washed with ethyl ether (3×200 cc). The aqueous phase is acidified to pH 3 by addition of 4N hydrochloric acid and extracted with ethyl acetate (2×200 cc). The combined organic phases are washed with water (2×150 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). (2-tert-Butoxycarbonylaminophenyl)acetic acid (25 g) is obtained in the form of a cream-white solid.

reactant | (2-nitrophenyl)acetic acid | 18.1 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | sodium hydroxide | 120 cc | [OH-].[Na+]
catalyst | palladium-on-carbon | 1.5 g | [Pd] | Pd
product | sodium (2-aminophenyl)acetate | NC1=C(C=CC=C1)CC(=O)[O-].[Na+] | InChI=1S/C8H9NO2.Na/c9-7-4-2-1-3-6(7)5-8(10)11;/h1-4H,5,9H2,(H,10,11);/q;+1/p-1
